US06498275B1
3,4-Difluorobenzenethiol
A solution of triphenylphosphine (37.0 g) and DMF (2 ml) in DCM (100 ml) was maintained at 20° C. with an ice bath during addition of 3,4-difluorobenzenesulphonyl chloride (10 g). The mixture was stirred at room temperature for 2 hours then aqueous hydrochloric acid (50 ml of a 1M solution) was added. The mixture was stirred for a further 1 hour. The organic layer was separated, dried and the solvent removed by evaporation to give the title compound as an oil which was used without purification.

reactant | triphenylphosphine | 37.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 3,4-difluorobenzenesulphonyl chloride | 10 g | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | hydrochloric acid | Cl | ClH
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 3,4-Difluorobenzenethiol | FC=1C=C(C=CC1F)S | C6H4F2S
